US07875715B2
Intermediate 37: Methyl (3S,4R)-4-{[(benzyloxy)carbonyl]amino}-1-(2-hydroxyethyl)piperidine-3-carboxylate
A mixture of methyl (3S,4R)-4-{[(benzyloxy)carbonyl]amino}piperidine-3-carboxylate (WO 2005/066176) (2.29 g, 7.83 mmol), N,N-diisopropylethylamine (2.05 mL, 11.75 mmol and 2-bromoethanol (0.722 mL, 10.18 mmol) in dry acetonitrile (17 mL) was heated in the microwave at 70° C. for 4.5 hours. The solvent was removed under reduced pressure and the residue taken up in ethyl acetate (200 mL) and washed with saturated aqueous sodium hydrogencarbonate solution (100 mL). The aqueous phase was back extracted once with ethyl acetate (100 mL) and the combined organic phases were dried over sodium sulfate. Chromatography on silica gel with dichloromethane/methanol (12:1) gave 2.0 g (76%), mp 73° C.

reactant | methyl (3S,4R)-4-{[(benzyloxy)carbonyl]amino}piperidine-3-carboxylate | 7.83 mmol, 2.29 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CNCC1)C(=O)OC | C15H20N2O4
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromoethanol | 10.18 mmol, 0.722 mL | BrCCO | C2H5BrO
solvent | acetonitrile | 17 mL | C(C)#N | C2H3N
product | Methyl (3S,4R)-4-{[(benzyloxy)carbonyl]amino}-1-(2-hydroxyethyl)piperidine-3-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@H](CN(CC1)CCO)C(=O)OC | C17H24N2O5
